US07795453B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(4-(dimethylamino)phenyl)amino]-carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride
A solution of 40 mg (0.11 mmol) of 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride in 2 ml of THF is mixed with 29.8 μl (0.21 mmol) of triethylamine and 34.7 mg (0.21 mmol) of 4-N,N-dimethylaminophenyl isocyanate. After 18 h at room temperature, the product is purified by preparative HPLC. The concentrated product fraction is dissolved in a mixture of acetonitrile and 1 N hydrochloric acid (5:1), again concentrated and dried under high vacuum. 21 mg (38.7% of theory) of the title compound are obtained.

reactant | 6-amino-N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-1-benzothiophene-2-carboxamide dihydrochloride | 0.11 mmol, 40 mg | Cl.Cl.NC1=CC2=C(C=C(S2)C(=O)N[C@H]2CN3CCC2CC3)C=C1
reactant | triethylamine | 0.21 mmol, 29.8 μl | C(C)N(CC)CC | C6H15N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-6-({[(4-(dimethylamino)phenyl)amino]-carbonyl}amino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=CC(=C1)NC(=O)NC1=CC=C(C=C1)N(C)C | InChI=1S/C25H29N5O2S.ClH/c1-29(2)20-7-5-18(6-8-20)26-25(32)27-19-4-3-17-13-23(33-22(17)14-19)24(31)28-21-15-30-11-9-16(21)10-12-30;/h3-8,13-14,16,21H,9-12,15H2,1-2H3,(H,28,31)(H2,26,27,32);1H/t21-;/m0./s1
